US08497281B2
Step 3: cis-(3H-benzoimidazol-5-yl)-(6-cyclopent-1-enyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-6-cyclopent-1-enyl-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1. Yield: 49% of theory; LC (method 1): tR=2.64 min; Mass spectrum (ESI+): m/z=384 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-6-cyclopent-1-enyl-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | C1(=CCCC1)C=1C=CC=2C[C@@H]3NCCC[C@@H]3C2C1 | C17H21N
product | cis-(3H-benzoimidazol-5-yl)-(6-cyclopent-1-enyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | Yield: 49% | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C=CC2C1)C1=CCCC1 | C25H25N3O
